US05206235
Step A: 2-Bromobiphenyl
A solution of 8.8 mL of isoamylnitrite in 120 mL of benzene at 45° C. was treated dropwise over 30 minutes with a solution of 7.5 g of 2-bromoaniline in 30 mL of benzene. After the addition was complete, the mixture was heated at reflux for 90 minutes then cooled and concentrated under vacuum. The product was purified by preparative high presssure liquid chromatography on silica, eluting with hexanes. 1H NMR (200 MHz,CDCl3): 7.23 (m,2H), 7.35 (m,1H), 7.44 (s,5H), 7.70 (d,8 Hz,1H).

reactant | isoamylnitrite | 8.8 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | 2-bromoaniline | 7.5 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | benzene | 120 mL | C1=CC=CC=C1 | C6H6
reactant | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 2-Bromobiphenyl | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
